* D:\Documents\GitHub\ASSD-G4\TP1\simulation\sampler_v2.asc
V3 CLK 0 PULSE(-0.5V 10V 0 0 0 1u 2u)
V4 +VCC 0 10
V5 0 -VCC 10
V2 vcc+ 0 10
V6 0 Vcc- 10
R7 N018 vin.55 {mc{R1,tolR}}
R10 N021 N018 {mc{R1,tolR}}
XU6 N021 N020 vcc+ vcc- vo.55 TL082
C3 vo.55 N018 {mc{C,tolC}}
C5 N021 0 {mc{C,tolC}}
R11 vo.55 N020 {mc{Ra1,tolR}}
R12 0 N020 {mc{Rb,tolR}}
R13 N014 vo.55 {mc{R2,tolR}}
R14 N017 N014 {mc{R2,tolR}}
C6 vin1.99 N014 {mc{C,tolC}}
C7 N017 0 {mc{C,tolC}}
R15 vin1.99 N016 {mc{Ra2,tolR}}
R16 0 N016 {mc{Rb,tolR}}
R17 N008 vin1.99 {mc{R3,tolR}}
R18 N011 N008 {mc{R3,tolR}}
C8 vo N008 {mc{C,tolC}}
C9 N011 0 {mc{C,tolC}}
R19 vo N010 {mc{Ra3,tolR}}
R20 0 N010 {mc{Rb,tolR}}
XU7 0 N001 vcc+ vcc- N002 TL082
XU8 0 N004 vcc+ vcc- N005 TL082
XU9 0 N006 vcc+ vcc- vott TL082
R21 N001 vintt {mc{Rt3,tolR}}
C10 N002 N001 {mc{C2,tolC}}
C11 N005 N004 {mc{C2,tolC}}
R22 N002 N001 {mc{Rt1,tolR}}
R23 N004 N002 {mc{Rt4,tolR}}
R24 N006 N005 {mc{470k,tolR}}
R25 vott N006 {mc{ 470k,tolR}}
R26 vott N001 {mc{Rt2,tolR}}
XU10 vo N009 vcc+ vcc- N009 TL082
XU11 N017 N016 vcc+ vcc- vin1.99 TL082
XU12 N011 N010 vcc+ vcc- vo TL082
XU13 vott N007 vcc+ vcc- N007 TL082
XU14 vo.55 N019 vcc+ vcc- N019 TL082
XU15 vin1.99 N015 vcc+ vcc- N015 TL082
XU16 0 N003 vcc+ vcc- vin.55 TL082
R27 vin.55 N003 10k
R28 N003 vott 10k
V7 vintt 0 SINE(0 5 150kHz 0 0 90) AC 0
C1 0 N012 {Ch}
XU1 vo N013 CLK -VCC N012 Vout +VCC LF398H
R1 Vinst 0 10Meg
R2 Vout 0 10k
R3 +VCC 0 10k
R4 N013 +VCC 47k
XU3 CLK Vout Vinst +VCC -VCC CD4066
R5 Vnatural 0 10Meg
XU2 CLK vo Vnatural +VCC -VCC CD4066
.tran 0 20u 0 10n
.param Ch=3n
.lib CD4066.sub
* Source
* Clock
* CMD and LIB
.inc "TL082.301"
.param Rb = 10k
.param R1 = 3.5k
.param Ra1 = 1.82k
.param R2 = 2.4k
.param Ra2 = 9.36k
.param R3 = 1.8k
.param Ra3 = 14.97k
.param C =1n
.param tolR=0
.param tolC=0
* .param C2 = 1n\n \n.param Rt1 =10.4k\n.param Rt2 = 1.6k\n.param Rt3 = 5.6k\n.param Rt4 = 1.6k
* .tran 0 500u 0
.param C2 = 1n
.param Rt1 =6k
.param Rt2 = 1.5k
.param Rt3 = 8.2k
.param Rt4 = 1.5k
* Parametros de Celda
* Comandos de Simulacion
* Coneccion de Celdas
* Filtro
* Muestreo Instantáneo
* Muestreo Natural
.lib D:\Documents\GitHub\ASSD-G4\TP1\simulation\LF398.sub
.backanno
.end
