* D:\ASSD_2021\ASSD-G4\TP1\Llave_analogica_sample_and_hold\simulacion\Circuito principal.asc
Vin V_in 0 SINE(0 5 10k 0 0 0)
C1 0 N001 {Ch}
V2 CLK 0 PULSE(-0.5V 15V 0 0 0 1.6us 3.2us)
V1 +VCC 0 15
V3 0 -VCC 15
XU2 V_in N002 CLK -VCC N001 Vout +VCC LF398H
R2 N003 0 100k
R3 Vout 0 10k
R4 +VCC 0 10k
R5 N002 +VCC 47k
R1 N004 0 100k
XU3 CLK V_in N004 +VCC -VCC CD4066
XU1 CLK Vout N003 +VCC -VCC CD4066
.tran 0 300u 0 10n startup
* .step param Ch list 100p 220p 470p 820p 1n
.param Ch=220p
.lib CD4066.sub
.lib C:\Users\Blanca Herrera\Desktop\LF398.mod
.backanno
.end
