* C:\Users\Facu Molina\Google Drive\6 CUATRIMESTRE\22.05 Análisis de Señales y Sistemas Digitales\TP1\simulation\oscillator.asc
R_DISCH Sawtooth N002 50
R1 N001 Vcc 1500
C1 Sawtooth 0 100p
Q1 Sawtooth N007 N001 0 2N2907
R2 N007 0 1k
C2 N005 0 10n
V1 Vcc 0 15
XU2 Vref Sawtooth Vcc 0 OUT 0 LM311 LM311 LM311
R3 Vref Vcc 10k
R4 Vref N008 220
R4_PRESET_20K N008 0 20k
R_PULLUP Vcc OUT 10k
D1 Vcc N003 1N4148
D2 N003 N007 1N4148
XU1 0 Sawtooth NC_01 Vcc N005 Sawtooth N002 Vcc NE555
.model D D
.lib D:\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib D:\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0.01m
* Valores limites:\n                Frecuencia máxima:              450 kHz\n                                                                RSET_PRESET_50K = 0 Ohm\n                                                                RSET_PRESET_500 = 0 Ohm\n                                Duty Cycle:     \n                                                                5%            R4_PRESET = 0 Ohm\n                                                                95%             R4_PRESET = 20 kOhm\n                    \n                Frecuencia minima:              17 kHz\n                                                                RSET_PRESET_50K = 50 kOhm\n                                                                RSET_PRESET_500 = 500 Ohm\n                                Duty Cycle:     \n                                                                4%              R4_PRESET = 0 Ohm\n                                                                96%            R4_PRESET = 18 kOhm
.lib FACUsub/LM311.sub
.lib NE555.sub
.backanno
.end
